US05932601
Into a tetrahydrofuran (THF) (80 ml) solution of methyl (R)-(+)-5-[4-[2-(2-furyl)-5-methyl-4-oxazolyl methoxy]-3-methoxyphenyl]-2-(4-nitrophenoxycarbonyloxy)pentanoate (4.25 g) was introduced ammonia (gas) for 10 minutes at temperature ranging from -65 to -70° C. The reaction mixture was poured into water-6N HCl, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated. The residue was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:1), was obtained methyl (R)-(+)-2-carbamoyloxy-5-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]pentanoate (3.0 g, 89%), which was recrystallized from acetone-isopropyl ether to give colorless needles, m.p.110-111° C. [α]D +5.30° (c=1. 0, CH3OH)

reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
reactant | methyl (R)-(+)-5-[4-[2-(2-furyl)-5-methyl-4-oxazolyl methoxy]-3-methoxyphenyl]-2-(4-nitrophenoxycarbonyloxy)pentanoate | 4.25 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CCC[C@H](C(=O)OC)OC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC)C | C29H28N2O11
reactant | ammonia | N | H3N
solvent | water | 6N | O | H2O
product | methyl (R)-(+)-2-carbamoyloxy-5-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]pentanoate | 3.0 g, 89% | C(N)(=O)O[C@@H](C(=O)OC)CCCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C23H26N2O8
